US05464811
2-Fluoro-4-chloro-5-cyclohexyloxyaniline (213 mg, 0.874 mmol), 3,4,5,6-tetrahydrophthalic anhydride (134 mg, 0.874 mmol) and acetic acid (10 ml) were charged into a 50 cc round-bottom flask, and heated for 15 hours while refluxing. After completion of the reaction, the reaction solution was cooled to room temperature, water (50 ml) was added thereto, and extracted with ethyl acetate (20 ml×3). The organic layers were combined, washed with water and a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. The drying agent was separated by filtration and the solvent was distilled off under reduced pressure to obtain a crude product (332 mg). The product was purified by silica gel column chromatography (development solvent: hexane/ethyl acetate=19/1) to obtain N-(2-fluoro-4-chloro-5-cyclohexyloxyphenyl) 3,4,5,6-tetrahydrophthalimide as a white solid (230 mg, 0.609 mmol, 70% yield). By recrystallization of the product from hexane/chloroform, it was isolated as white needle crystals.

reactant | 2-Fluoro-4-chloro-5-cyclohexyloxyaniline | 0.874 mmol, 213 mg | FC1=C(N)C=C(C(=C1)Cl)OC1CCCCC1 | C12H15ClFNO
reactant | 3,4,5,6-tetrahydrophthalic anhydride | 0.874 mmol, 134 mg | C1(C2=C(C(=O)O1)CCCC2)=O | C8H8O3
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | water | 50 ml | O | H2O
product | N-(2-fluoro-4-chloro-5-cyclohexyloxyphenyl) 3,4,5,6-tetrahydrophthalimide | 0.609 mmol, 230 mg, 70% yield | FC1=C(C=C(C(=C1)Cl)OC1CCCCC1)N1C(C2=C(C1=O)CCCC2)=O | C20H21ClFNO3
